US04000142
8-Cyano-3-methyl-5,6,7,8-tetrahydroquinoline
A solution of 3-methyl-5,6,7,8-tetrahydroquinoline (29 g., 0.2 mol) in benzene (200 ml.) was cooled to 0° C and treated dropwise with a 15% w/w solution of n-butyl lithium in hexane (88 ml., 0.2 mol) under nitrogen. After 1 hour at 0° C the reaction mixture was added portionwise to a solution of trimethylsilylisothiocyanate (112 ml., 0.8 mol.) in benzene (200 ml.) at 0° C and under nitrogen. After 21/2 hours at room temperature the reaction mixture was treated with water (100 ml.) and with 2N HCl to pH 2.0. The aqueous layer was separated, washed with ethyl acetate (1 × 50 ml.) and the pH adjusted to 9.0 with sodium carbonate and extracted with chloroform (3 × 100 ml.) The combined chloroform extracts were dried (MgSO4) and the solvent removed in vacuo to give a red oil which was distilled first at 0.25 mmHg to give recovered 3-methyl-5,6,7,8-tetrahydroquinoline (17 g., 59%) b.p. 54-7° and then at 0.05 mmHg to give the title compound as a pale red oil (12 g. 35%) b.p. 115- 20° RT = 4.1/4 min. (3% SE30, 200° C) identical to authentic material.

reactant | 3-methyl-5,6,7,8-tetrahydroquinoline | 0.2 mol, 29 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.2 mol, 88 ml | CCCCCC | C6H14
reactant | trimethylsilylisothiocyanate | 0.8 mol, 112 ml | C[Si](C)(C)N=C=S | C4H9NSSi
reactant | HCl | 2N | Cl | ClH
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | 8-Cyano-3-methyl-5,6,7,8-tetrahydroquinoline | 12 g, 35% | C(#N)C1CCCC=2C=C(C=NC12)C | C11H12N2
